US07125898B2
6-Bromonicotinic acid (200 mg, 0.99 mmol) was heated at reflux in thionyl chloride (2 ml) for 3 hrs. The reaction was allowed to cool to room temperature and the excess thionyl chloride evaporated under vacuum. The residue was dissolved in DCM (2 ml), p-anisidine (123 mg, 0.10 mmol) and sodium carbonate (500 mg) were added to the solution. The reaction was stirred at room temperature for 4 hrs, filtered and the filtrate reduced to dryness under vacuum to give 6-chloro-N-(4-methoxyphenyl)nicotinamide. NMR: δH [2H6]-DMSO 10.37,(1H, b), 8.94,(1H, d), 8.34,(1H, dd), 7.70,(1H, d), 7.66,(2H, m), 6.95,(2H, m), 3.75,(3H, s).

reactant | 6-Bromonicotinic acid | 0.99 mmol, 200 mg | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | p-anisidine | 0.10 mmol, 123 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium carbonate | 500 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-N-(4-methoxyphenyl)nicotinamide | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C13H11ClN2O2
